US07253285B2
To a mixture of 6-bromo-4-chloro-quinoline (0.900 g, 3.71 mmol) and diethylamine (1.364 g, 18.56 mmol) in ethanol (10 mL) was added potassium carbonate (2.56 g, 18.56 mmol) at room temperature. Then, the reaction mixture was stirred for 15 h in a sealed tube. TLC analysis of the reaction mixture indicated the presence of lot of 6-bromo-4-chloro-quinoline and another 2 mL of diethylamine was added and heated to 100° C. and stirred for 15 h. After cooling to room temperature, the reaction mixture was diluted with water and the solvent was removed under the vacuum. Then, the product was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine solution and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the filtrate was removed under the vacuum and the residue was purified by using a Biotage silica gel column chromatography to afford 0.180 g (17.4% yield) of (6-bromo-quinolin-4-yl)-diethylamine as a light yellow oil: EI-LRMS m/e calcd for C13H15BrN2 (M+) 279.1, found 279.1.

reactant | 6-bromo-4-chloro-quinoline | 3.71 mmol, 0.900 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | diethylamine | 18.56 mmol, 1.364 g | C(C)NCC | C4H11N
reactant | potassium carbonate | 18.56 mmol, 2.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylamine | 2 mL | C(C)NCC | C4H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | (6-bromo-quinolin-4-yl)-diethylamine | 0.180 g, 17.4% yield | BrC=1C=C2C(=CC=NC2=CC1)N(CC)CC | C13H15BrN2
